US05892131
Preparation of 1-(p-Chlorophenyl)-1-(3-bromo-2-fluoropropenyl)cyclopropane, (Z)-
Under a nitrogen atmosphere, a solution of bromine (0.767 g, 4.8 mmol) in carbon tetrachloride at ice-water bath temperature is treated sequentially with a solution of triphenylphosphine (1.26 g, 4.8 mmol) in carbon tetrachloride and a solution of 3-[1-(p-chlorophenyl)-cyclopropyl]-2-fluoro-2-propen-1-ol, (Z)- (0.907 g, 4 mmol) in carbon tetrachloride, heated to and stirred at reflux for 70 minutes, cooled to room temperature, and poured into petroleum ether. The resultant mixture is filtered, and the filtrate is concentrated in vacuo to obtain a residue: The residue is dissolved in petroleum ether and passed through a plug of silica gel (eluted with hexanes) to obtain an oil. Flash column chromatography of the oil using silica gel and a 3:20 methylene chloride/hexanes solution gives the title product as a colorless oil (0.73 g, 63% yield) which is identified by NMR spectral analyses.

reactant | bromine | 4.8 mmol, 0.767 g | BrBr | Br2
reactant | triphenylphosphine | 4.8 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-[1-(p-chlorophenyl)-cyclopropyl]-2-fluoro-2-propen-1-ol | ClC1=CC=C(C=C1)C1(CC1)C=C(CO)F | C12H12ClFO
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(p-Chlorophenyl)-1-(3-bromo-2-fluoropropenyl)cyclopropane | 0.73 g, 63% yield | ClC1=CC=C(C=C1)C1(CC1)C=C(CBr)F | C12H11BrClF
